US04146631
2-Benzyloxy-5-trifluoromethyl-N-(tetrazol-5-yl)benzamide (2.7 g) was dissolved in ethanol (500 ml), and the solution was hydrogenated at 25° C. and 5 kg/cm2 pressure, using a 5% palladium on charcoal catalyst. The reaction mixture was then filtered, and evaporated under vacuum. The resulting solid was recrystallized from isopropanol, with the aid of charcoal, to give 5-trifluoromethyl-2-hydroxy-N-(tetrazol-5-yl)benzamide (0.85 g), m.p. 245°-246° C. (with decomposition).

reactant | 2-Benzyloxy-5-trifluoromethyl-N-(tetrazol-5-yl)benzamide | 2.7 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=NN=NN2)C=C(C=C1)C(F)(F)F | C16H12F3N5O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-trifluoromethyl-2-hydroxy-N-(tetrazol-5-yl)benzamide | 0.85 g | FC(C=1C=CC(=C(C(=O)NC2=NN=NN2)C1)O)(F)F | C9H6F3N5O2
